US04760140
(6R-trans)-3-[(Acetyloxy)methyl]-7-[(5-benzoyl-2-thiazolyl)amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid
A 235 mg portion of (6R-trans)-3-[(Acetyloxy)methyl]7-[(5-benzoyl-2-thiazolyl)amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester was reacted with anisole and trifluoroacetic acid in dichloromethane as described in Example 5, giving 143 mg of the desired product as a pale yellow powder.

reactant | (6R-trans)-3-[(Acetyloxy)methyl]7-[(5-benzoyl-2-thiazolyl)amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester | C(C)(=O)OCC1=C(N2C([C@H]([C@H]2SC1)NC=1SC(=CN1)C(C1=CC=CC=C1)=O)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C33H27N3O6S2
reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (6R-trans)-3-[(Acetyloxy)methyl]-7-[(5-benzoyl-2-thiazolyl)amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 143 mg | C(C)(=O)OCC1=C(N2C([C@H]([C@H]2SC1)NC=1SC(=CN1)C(C1=CC=CC=C1)=O)=O)C(=O)O | C20H17N3O6S2
